US08471027B2
Separately, in a 100 mL round-bottomed flask, methyl 4-(3-(4-chloro-2-(phenylamino)phenyl)-3-oxopropyl)benzoate (898 mg, 2.28 mmol) was combined with THF to give a yellow solution. A 1.0 M solution of NaHMDS in THF (5.7 ml, 5.7 mmol) was added. The reaction mixture was stirred at room temperature for 15 minutes. A heterogeneous mixture of oxazole-2-carbonyl chloride from above, THF (5 mL), DMF (500 μL) was added dropwise to the reaction mixture. The mixture was stirred at room temperature overnight. The reaction flask was cooled to 0° C., then the reaction was quenched with water. The resulting heterogeneous mixture was extracted with ethyl acetate, and the organic phase was dried over MgSO4, filtered, then concentrated. The crude product was dissolved in methylene chloride, then concentrated over silica gel. The silica gel supported crude product was loaded onto a 80 gram analogix column. Flash chromatography (15% EtOAc-hexanes→55% EtOAc-hexanes) provided 4-(7-Chloro-2-oxazol-2-yl-4-oxo-1-phenyl-1,4-dihydro-quinolin-3-ylmethyl)-benzoic acid methyl ester (28 mg, 2.6%) as a light yellow solid.

reactant | methyl 4-(3-(4-chloro-2-(phenylamino)phenyl)-3-oxopropyl)benzoate | 2.28 mmol, 898 mg | ClC1=CC(=C(C=C1)C(CCC1=CC=C(C(=O)OC)C=C1)=O)NC1=CC=CC=C1 | C23H20ClNO3
reactant | THF | C1CCOC1 | C4H8O
reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 5.7 mmol, 5.7 ml | C1CCOC1 | C4H8O
reactant | oxazole-2-carbonyl chloride | O1C(=NC=C1)C(=O)Cl | C4H2ClNO2
reactant | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 500 μL | CN(C)C=O | C3H7NO
product | 4-(7-Chloro-2-oxazol-2-yl-4-oxo-1-phenyl-1,4-dihydro-quinolin-3-ylmethyl)-benzoic acid methyl ester | 28 mg, 2.6% | COC(C1=CC=C(C=C1)CC1=C(N(C2=CC(=CC=C2C1=O)Cl)C1=CC=CC=C1)C=1OC=CN1)=O | C27H19ClN2O4
